US07777176B2
4,4′-Dibromostilbene.
To a three neck 50 ml round bottom, 4-bromostyrene (14.490 g, 0.0786 mol) was added. To the solution, a magnetic stir bar along with dichloromethane (DCM) (10 mL) were added. To the solution, Grubb's catalyst (0.500 mg, 5.8×10−4 mol) along with DCM (25 mL) was added. The solution was allowed to react for 24 hours at room temperature. The precipitate was filtered and placed into a vial for storage.

reactant | 4-bromostyrene | 0.0786 mol, 14.490 g | BrC1=CC=C(C=C)C=C1 | C8H7Br
catalyst | Grubb's catalyst | 5.8×10−4 mol, 0.500 mg | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
solvent | DCM | 25 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 4,4′-Dibromostilbene | BrC1=CC=C(C=C1)C=CC1=CC=C(C=C1)Br | C14H10Br2
